US07923456B2
5-(4-Bromo-2-fluoro-phenylamino)-8-fluoro-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
To a solution of 5-(4-bromo-2-fluoro-phenylamino)-8-fluoro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (351 mg, 0.92 mmol) in IMS (10 mL) was added sodium hydroxide (1.0 mL, 1M aqueous solution, 1.0 mmol). The reaction mixture was heated at 65° C. for 1 hour, and then concentrated in vacuo. The resultant residue was azeotroped with toluene and then suspended in dioxane. EDCI (353 mg, 1.84 mmol) and HOBt (248 mg, 1.84 mmol) were added and the mixture was stirred at room temperature for 20 minutes. (S)-1-Aminooxy-propan-2-ol hydrochloride (235 mg, 1.84 mmol) and DIPEA (0.63 mL, 3.68 mmol) were added and the resultant mixture was stirred for 18 hours, before being concentrated under reduced pressure. The resultant residue was taken up in ethyl acetate then washed with a saturated aqueous solution of sodium bicarbonate followed by water and brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 10%, methanol in dichloromethane) to give a pale yellow solid (124 mg), which was further purified by preparative HPLC (Gemin 5 micron C18 250×21.20 mm column, 0.1% formic acid, gradient acetonitrile/water, 5 to 85%, ramp time 15 minutes) to afford the title compound as an off-white solid (70 mg, 17%). LCMS (method A): RT=7.83 min, [M+H]+=441/443. 1H NMR (CDCl3): 9.45 (1H, s), 8.99 (1H, s), 7.76 (1H, d, J=2.95 Hz), 7.59 (1H, s), 7.29 (1H, dd, J=10.10, 2.16 Hz), 7.12 (1H, d, J=8.52 Hz), 6.50 (1H, d, J=10.18 Hz), 6.41 (1H, t, J=8.54 Hz), 4.03 (1H, t, J=7.52 Hz), 3.94 (1H, d, J=11.57 Hz), 3.70 (1H, t, J=10.24 Hz), 1.14 (3H, d, J=6.46 Hz).

reactant | 5-(4-bromo-2-fluoro-phenylamino)-8-fluoro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.92 mmol, 351 mg | COC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2)F | C15H10BrF2N3O2
reactant | sodium hydroxide | 1.0 mmol, 1M, 1.0 mL | [OH-].[Na+]
reactant | EDCI | 1.84 mmol, 353 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.84 mmol, 248 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-1-Aminooxy-propan-2-ol hydrochloride | 1.84 mmol, 235 mg | Cl.NOC[C@H](C)O
reactant | DIPEA | 3.68 mmol, 0.63 mL | CCN(C(C)C)C(C)C | C8H19N
product | 5-(4-Bromo-2-fluoro-phenylamino)-8-fluoro-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 124 mg | O[C@H](CONC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2)F)C | C17H15BrF2N4O3
